* Copyright © Linear Technology Corp. 2016.  All rights reserved.
*
.subckt LTC1966 1 2 3 4 5 6 7
RIN2 11A 13A 300K
DS3 N001 N003 DS
RIN3 N001 11A 50
CIN2 11A 0 10p Rpar=1k
DIN1 2 7 DIN
DIN2 4 2 DIN
DIN3 4 3 DIN
DIN4 3 7 DIN
RS1 22A 2 6K
RS2 33A 3 6K
RS3 22A 33A 100Meg
CS3 33A 1 2.5p
CS2 22A 1 2.5p
B1 0 11A I=1m*ABS(V(10A)/MAX(V(5,6)+4E-4,4E-4)*MIN(MAX(V(5,6)*4.183,1m),ABS(V(10A))))
DS1 13A 0 DS
BVCC N003 0 V=.56*V(7,1)-.750
B2 0 N008 I=10u*dnlim(uplim(V(22A),V(7)+.1,.1), V(4)-.1, .1)
B3 N008 0 I=10u*dnlim(uplim(V(33A),V(7)+.1,.1), V(4)-.1, .1)
C1 N008 0 1f Rpar=200K noiseless
G1 0 10A N008 0 1m
C2 10A 0 160p Rpar=1k
D2 7 1 DSUP1
D3 1 4 DSUP3
D4 N008 0 DDIFLIM
B4 7 5 I=11.765u*(ABS(V(11A))+V(6,1))
G2 1 VDDMIN 1 4 .333m
R1 VDDMIN 1 1k
I1 1 VDDMIN 2.7m
S2 N008 0 VDDMIN 7 SVDDOFF
S3 N008 0 4 1 SVSSOFF
G3 5 1 5 6 1m vto=1.05 dir=1
COUT2 1 5 8.7p Rpar=85k
S1 N008 0 4 6 SVSSOFF
S5 0 11A 6 7 SREFLIM
G4 5 1 5 7 100m vto=-10m dir=1
.model DDIFLIM D(Ron=100 Roff=200k vfwd=2 epsilon=300m vrev=2 revepsilon=300m)
.model SREFLIM SW(Ron=1 Roff=1G vt=-900m vh=-300m)
.model SVDDOFF SW(Ron=1 Roff=1G vt=0 vh=-100m)
.model SVSSOFF SW(Ron=1 Roff=1G vt=100m vh=-100m)
.model DSUP1 D(ron=100 roff=1Meg vfwd=1.5 epsilon=500m ilimit=155u)
.model DSUP3 D(ron=100 roff=1G vfwd=100m epsilon=100m ilimit=12u)
.model DS D (IS=1E-16 RS=0 KF=0 XTI=0)
.model DIN D (IS=1E-13 RS=0 KF=0 XTI=0)
.ends LTC1966
*
.subckt LTC1967 1 2 3 4 5 6
RIN2 11A 13A 150K
DS3 N001 N003 DS
RIN3 N001 11A 50
CIN2 11A 0 10p Rpar=1k
DIN1 2 6 DIN
DIN2 1 2 DIN
DIN3 1 3 DIN
DIN4 3 6 DIN
RS1 22A 2 2K
RS2 33A 3 2K
RS3 22A 33A 100Meg
CS3 33A 1 800f
CS2 22A 1 800f
B1 0 11A I=1m*ABS(V(10A)/MAX(V(4,5)+2m,2m)*MIN(MAX(V(4,5)*4.183,1m),ABS(V(10A))))
DS1 13A 0 DS
BVCC N003 0 V=.5*V(6,1)-.750
B2 0 N008 I=10u*dnlim(uplim(V(22A),V(6)+.1,.1), V(1)-.1, .1)
B3 N008 0 I=10u*dnlim(uplim(V(33A),V(6)+.1,.1), V(1)-.1, .1)
C1 N008 0 1f Rpar=200K noiseless
G1 0 10A N008 0 1m
C2 10A 0 400f Rpar=1k
D2 6 1 DSUP1
D4 N008 0 DDIFLIM
B4 6 4 I=20u*(ABS(V(11A))+2m+V(5,1))
S2 N008 0 1 6 SVDDOFF
G3 4 1 4 5 1m vto=1.05 dir=1
COUT2 1 4 8.7p Rpar=50K
S1 N008 0 1 6 SVSSOFF
G4 4 1 4 6 100m vto=-10m dir=1
.model DDIFLIM D(Ron=100 Roff=200k vfwd=2 epsilon=300m vrev=2 revepsilon=300m)
.model SVDDOFF SW(Ron=1 Roff=1G vt=-4.3 vh=-100m)
.model SVSSOFF SW(Ron=1 Roff=1G vt=100m vh=-100m)
.model DSUP1 D(ron=100 roff=1Meg vfwd=1.5 epsilon=500m ilimit=330u)
.model DS D (IS=1E-16 RS=0 KF=0 XTI=0)
.model DIN D (IS=1E-13 RS=0 KF=0 XTI=0)
.ends LTC1967
*
.subckt LTC1968 1 2 3 4 5 6
RIN2 11A 13A 150K
DS3 N001 N003 DS
RIN3 N001 11A 50
CIN2 11A 0 10p Rpar=1k
DIN1 2 6 DIN
DIN2 1 2 DIN
DIN3 1 3 DIN
DIN4 3 6 DIN
RS1 22A 2 2K
RS2 33A 3 2K
RS3 22A 33A 100Meg
CS3 33A 1 800f
CS2 22A 1 800f
B1 0 11A I=1m*ABS(V(10A)/MAX(V(4,5)+2m,2m)*MIN(MAX(V(4,5)*4.183,1m),ABS(V(10A))))
DS1 13A 0 DS
BVCC N003 0 V=.5*V(6,1)-.750
B2 0 N008 I=10u*dnlim(uplim(V(22A),V(6)+.1,.1), V(1)-.1, .1)
B3 N008 0 I=10u*dnlim(uplim(V(33A),V(6)+.1,.1), V(1)-.1, .1)
C1 N008 0 1f Rpar=200K noiseless
G1 0 10A N008 0 1m
C2 10A 0 15p Rpar=1k
D2 6 1 DSUP1
D4 N008 0 DDIFLIM
B4 6 4 I=80u*(ABS(V(11A))+2m+V(5,1))
S2 N008 0 1 6 SVDDOFF
G3 4 1 4 5 1m vto=1.05 dir=1
COUT2 1 4 8.7p Rpar=12.5K
S1 N008 0 1 6 SVSSOFF
G4 4 1 4 6 100m vto=-10m dir=1
.model DDIFLIM D(Ron=100 Roff=200k vfwd=2 epsilon=300m vrev=2 revepsilon=300m)
.model SVDDOFF SW(Ron=1 Roff=1G vt=-4.3 vh=-100m)
.model SVSSOFF SW(Ron=1 Roff=1G vt=100m vh=-100m)
.model DSUP1 D(ron=100 roff=1Meg vfwd=1.5 epsilon=500m ilimit=2.3m)
.model DS D (IS=1E-16 RS=0 KF=0 XTI=0)
.model DIN D (IS=1E-13 RS=0 KF=0 XTI=0)
.ends LTC1968
